US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(3-phenylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a tetrahydrofuran solution (2 ml) of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (40 mg, 0.11 mmol), prepared as described in Example 1,3-phenylpropan-1-ol (0.018 ml, 0.13 mmol), and triphenylphosphine (86 mg, 0.32 mmol) was added diethyl azodicarboxylate (0.15 ml, 0.38 mmol). After 1 h, the solution was concentrated. The crude material was purified by preparative HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(3-phenylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (17.9 mg, 34%) as a yellow solid. MS M+H=475; 1H NMR (CDCl3) 8.18 (1H, s), 7.3-7.1 (13H, m), 4.13 (2H), 2.70 (2H), 2.21 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.11 mmol, 40 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | triphenylphosphine | 0.32 mmol, 86 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.38 mmol, 0.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-2-(3-phenylpropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 17.9 mg, 34% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CCCC2=CC=CC=C2)=O)C2=CC=C(C=C2)Cl | C26H20Cl2N4O
